US08314233B2
Methyl 3-morpholin-4-ylacrylate (96.3%, 8.5 g, 50 mmol) and triethylamine (5.2 g, 50 mmol) were initially charged in toluene (250 ml) and cooled to −30° C. At this temperature, difluoroacetyl fluoride (5.0 g, 50 mmol) was introduced. The reaction mixture was stirred at −30° C. for 3 h and then, over a period of 1 hour, warmed to room temperature. Under reduced pressure, the reaction mixture was freed from the solvent. The residue obtained was 15.5 g of an orange solid which, according to quant. 1H-NMR, consisted to 66.4% of methyl 4,4-difluoro-3-oxo-2-(morpholin-4-ylmethylidene)butyrate (yield: 82%). 1H-NMR (CDCl3): δ=3.4 (m, 2H), 3.7 (m, 2H), 3.75 (s, 3H), 3.85 (m, 2H), 6.6 (t, 1H), 7.85 ppm (s, 1H).

reactant | Methyl 3-morpholin-4-ylacrylate | 50 mmol, 8.5 g | N1(CCOCC1)C=CC(=O)OC | C8H13NO3
reactant | triethylamine | 50 mmol, 5.2 g | C(C)N(CC)CC | C6H15N
reactant | difluoroacetyl fluoride | 50 mmol, 5.0 g | FC(C(=O)F)F | C2HF3O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4,4-difluoro-3-oxo-2-(morpholin-4-ylmethylidene)butyrate | yield: 82% | FC(C(C(C(=O)OC)=CN1CCOCC1)=O)F | C10H13F2NO4
